US09034880B2
A solution of 2,3,4,5-Tetrahydro-2-methyl-1H-pyrido[4,3-b]indole (186 mg, 1 mmol), 5-(chloromethyl)-2-methylpyridine (324 mg, 2.3 mmol) and 60% NaH (120 mg, 3 mmol) in DMF (3 ml) were heated at 120° C. for 16 h to obtain 30 mg of 2,3,4,5-tetrahydro-2-methyl-5-((6-methylpyridin-3-yl)methyl)-1H-pyrido[4,3-b]indole after purification by silica gel chromatography (230-400 mesh) using methanol-dichloromethane gradient.

reactant | 2,3,4,5-Tetrahydro-2-methyl-1H-pyrido[4,3-b]indole | 1 mmol, 186 mg | CN1CC2=C(NC=3C=CC=CC23)CC1 | C12H14N2
reactant | 5-(chloromethyl)-2-methylpyridine | 2.3 mmol, 324 mg | ClCC=1C=CC(=NC1)C | C7H8ClN
reactant | NaH | 3 mmol, 120 mg | [H-].[Na+]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
product | 2,3,4,5-tetrahydro-2-methyl-5-((6-methylpyridin-3-yl)methyl)-1H-pyrido[4,3-b]indole | 30 mg | CN1CC2=C(N(C=3C=CC=CC23)CC=2C=NC(=CC2)C)CC1 | C19H21N3
